US06916819B2
As described previously, nucleophilic displacement of 2-Chloromethyl-1-ethyl-1H-benzoimidazole-5-carbonitrile with 3-(1H-Imidazol-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester followed by usual work-up provides 1-Ethyl-2-[2-(1H-pyrazol-3-yl)-imidazol-1-ylmethyl]-1H-benzoimidazole-5-carbonitrile; 1H NMR (CD3OD) δ 7.97 (s, 1H), 7.53 (brs, 1H), 7.46 (d, J=8.7 Hz, 1H), 7.35 (d, J=8.1 Hz, 1H), 6.97 (d, J=6.3 Hz, 2H), 6.79 (br s, 1H), 6.10 (s, 2H), 4.22 (q, J=7.2 Hz, 2H), 0.88 (t, J=7.2 Hz, 3H); m/z 318 [M+1].

reactant | 2-Chloromethyl-1-ethyl-1H-benzoimidazole-5-carbonitrile | ClCC1=NC2=C(N1CC)C=CC(=C2)C#N | C11H10ClN3
reactant | 3-(1H-Imidazol-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=C1)C=1NC=CN1 | C11H14N4O2
product | 1-Ethyl-2-[2-(1H-pyrazol-3-yl)-imidazol-1-ylmethyl]-1H-benzoimidazole-5-carbonitrile | C(C)N1C(=NC2=C1C=CC(=C2)C#N)CN2C(=NC=C2)C2=NNC=C2 | C17H15N7
